US07196104B2
Preparation DI: 5-tert-Butyl-oxazole-2-carboxylic acid ethyl ester
The mixture of N-(3,3-dimethyl-2-oxo-butyl)-oxalamic acid ethyl ester (0.79 g, 3.67 mmol) and phosphorus oxychloride (2.0 mL, 22.0 mmol) was stirred at 105° C. under N2 for 2 h, cooled to RT, quenched slowly with ice-water, extracted with EtOAc. The combined organic portions were washed with brine, dried with Na2SO4, removal of the solvents gave a dark brownish oil which was purified by flash column chromatography to yield the title compound. MS m/z: 197.9 (M+H). Calc'd for C10H15NO3-197.23

reactant | N-(3,3-dimethyl-2-oxo-butyl)-oxalamic acid ethyl ester | 3.67 mmol, 0.79 g | C(C)OC(C(=O)NCC(C(C)(C)C)=O)=O | C10H17NO4
reactant | phosphorus oxychloride | 22.0 mmol, 2.0 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-tert-Butyl-oxazole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1OC(=CN1)C(C)(C)C | C10H15NO3
